US06326369B1
4-[2-(2,3-Dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)ethoxy]benzoic acid
To a mixture of 4-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoic acid (1.00 g), 2,6-pyridinedicarboxylic acid (1.16 g), THF (40 ml), and water (10 ml) was dropwise added a solution of CAN (5.09 g) in water (10 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with combined solvent of ethyl acetate and THF. The organic layer was washed with water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was recrystallized from THF-ethyl acetate to yield the entitled compound (400 mg) as crystals.

reactant | 4-[2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoic acid | 1.00 g | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=CC=C(C(=O)O)C=C2)OC)OC)OC | C24H30O7
reactant | 2,6-pyridinedicarboxylic acid | 1.16 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | CAN | 5.09 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 10 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-[2-(2,3-Dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)ethoxy]benzoic acid | 400 mg | COC1=C(C(C2=C(CCC(CC2)CCOC2=CC=C(C(=O)O)C=C2)C1=O)=O)OC | C22H24O7
